2107-04-26 07:44:00 Physician Resident Progress Note
Chief Complaint: VF arrest during marathon
   24 Hour Events:
 EKG - At [**2107-4-25**] 10:35 PM
   routine EKG to follow progression/evolution
   - Anxious during the night, given Ativan 0.5 mg PO, slept. Had been
   anxious about near death.
   - KCl 40 mEq PO in a.m.
   - CE still climbing, but rate of increase slowed - repeat at noon
   Allergies:
   Penicillins
   Unspecified [**Doctor First Name **]
   Last dose of Antibiotics:
   Infusions:
   Eptifibatide (Integrilin) - 1 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-4-26**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**09**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37
C (98.6
   HR: 60 (60 - 74) bpm
   BP: 110/71(79) {110/71(79) - 132/96(103)} mmHg
   RR: 14 (13 - 18) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,763 mL
                                                                    281 mL
   PO:
                                                                    720 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  2,043 mL
                                                                     41 mL
   Blood products:
   Total out:
                                                                  3,600 mL
                                                                  2,000 mL
   Urine:
                                                                  3,600 mL
                                                                  2,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -837 mL
                                                                 -1,719 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   Physical examination was essentially unchanged. Exam notable for groin
   without bruit, signs of pseudoaneurysm or hematoma.
   GENERAL: In NAD. Tanned slim man.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP visible while lying flat, s/p cath.
   CARDIAC: RR, normal S1, S2. No m/r/g. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Some crackles upon initial deep
   breaths anteriorly, only ausculatated anteriorly and laterally. No
   wheezes or rhonchi given these limtis.
   ABDOMEN: Soft, NTND. No HSM or tenderness. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   NEUROPSYCHIATRIC: Alert. Oriented to person, place (time not asked),
   context. Mood, affect appropriate. Jocular and more dissappointed about
   not finishing race that myocardial ischemia. Very pleasant and
   cooperative. CN II grossly intact, EOM WNLs, PERL, speech normal - no
   errors, dysphonia, aphasia.
   PULSES:
   Right: Carotid 2+ DP 2+ PT 2+
   Left: Carotid 2+ DP 2+ PT 2+
   Labs / Radiology
   271 K/uL
   11.0 g/dL
   95 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.7 mEq/L
   16 mg/dL
   102 mEq/L
   137 mEq/L
   32.4 %
   6.9 K/uL
        [image002.jpg]
                             [**2107-4-25**]  07:42 PM
                             [**2107-4-26**]  04:47 AM
   WBC
   10.6
   6.9
   Hct
   31.7
   32.4
   Plt
   268
   271
   Cr
   1.1
   1.0
   TropT
   0.44
   0.64
   Glucose
   100
   95
   Other labs: PT / PTT / INR:12.4/24.1/1.0, CK / CKMB /
   Troponin-T:1379/45/0.64, Lactic Acid:2.6 mmol/L, Ca++:9.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Fluid analysis / Other labs: None.
   Imaging: No new CXR.
   Will be echo this a.m.
   Microbiology: MRSA screen pending.
   ECG: Continued resolution
 sinus rhythm, about 1mm J-point elevation
   in V3 now (versus 2 mm), continued biphasic t-waves in V2-4. Borderline
   left ventricular hypertrophy.
   Assessment
   This 64-year-old man with a history of coronary artery disease likely
   had exercise induced ischemia that resulted in VF and collapse.
   Coronary artery catheterization reveals a long segment of LAD stenosis.
   A drug eluting stent was placed.
   Plan
   # Coronary Artery Disease
   Patient likely without ACS, but more likely angina with ischemic
   arhythmia (VF) and collapse. EKG changes not very impressive and more
   likely a consequence of CPR, shocks, strain.
   - Stop Integrillin
   - ASA 325 QD, Plavix 75 QD, atorvastatin 80 QD
   - Start BB this a.m.
 metoprolol 12.5 mg PO BID
   - F/u echo read
   - Follow enzymes to peak
   - F/u pending A1c and lipids
   # VF - ischemic rhythm
   - Telemetry
   - revascularization as above
   - BB as above
   # Hypercholesterolemia
   Previous noted to be 194, per the patient, but was not taking statin.
   - Atorvastatin 80 mg
   # Lactate
   Likely from marathon (uncertain that this would contribute much) along
   with subsequent arrest and temporary hypoperfusion. Is falling. Fell
   quickly and no suspicion that this would be elevated.
   - No need to trend further
   # Renal Failure
   Resolved
 now normal at 1.0 and likely appropriate for age, muscle
   mass. Reduced from 1.5 yesterday
 likely pre-renal from marathon.
   # Leukocytosis
   Likely stress, corticosteroid, demargination, given events of today.
   # Mental Status
   Some short-term memory difficulty as manifest by repetition of
   questions, worse yesterday than today and away from baseline per
   family. This is improving.
   - Follow and ask family how he seems later today.
   FEN:
   - No IVFs for now
   - Electrolytes for now, K > 4.0, Mg > 2.0 (gave 40 mEq KCl PO this
   a.m.)
   - Regular cardiac, heart healthy, diet this evening
   ACCESS: PIV's (sheath pulled)
   PROPHYLAXIS:
   -DVT ppx with heparin SC
   -Pain management with Tylenol and morphine
   -Bowel regimen with colace and senna
   CODE: Full Code
   COMM: [**Name (NI) **] and family
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2107-4-25**] 04:03 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: Other, Integrillin)
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor
   ------ Protected Section ------
   Subcutaneous heparin was started this a.m. The above
avoid heparin
   the plan is in error.
   ------ Protected Section Addendum Entered By:[**Name (NI) 12295**] [**Last Name (NamePattern1) 10742**], MD
   on:[**2107-4-26**] 10:22 ------
   Attending
s Note
   Reviewed overnight events and data.
   Agree with Dr.[**Last Name (STitle) 12301**]
s notes and agree with treatment plan outlined.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4425**].
   Spent 40mins on case
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4425**],MD
   on:[**2107-4-27**] 14:58 ------

2107-04-27 07:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Allergies:
   Penicillins
   Unspecified [**Doctor First Name **]
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-4-27**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**09**] AM
   Tmax: 37.8
C (100
   Tcurrent: 37.2
C (99
   HR: 62 (60 - 84) bpm
   BP: 108/67(77) {97/18(44) - 139/97(105)} mmHg
   RR: 15 (14 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  2,359 mL
                                                                    240 mL
   PO:
                                                                  2,310 mL
                                                                    240 mL
   TF:
   IVF:
                                                                     49 mL
   Blood products:
   Total out:
                                                                  4,850 mL
                                                                  1,400 mL
   Urine:
                                                                  4,850 mL
                                                                  1,400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,491 mL
                                                                 -1,160 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   Physical examination was essentially unchanged. Exam notable for groin
   without bruit, signs of pseudoaneurysm or hematoma.
   GENERAL: In NAD. Tanned slim man.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP visible while lying flat, s/p cath.
   CARDIAC: RR, normal S1, S2. No m/r/g. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Some crackles upon initial deep
   breaths anteriorly, only ausculatated anteriorly and laterally. No
   wheezes or rhonchi given these limtis.
   ABDOMEN: Soft, NTND. No HSM or tenderness. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   NEUROPSYCHIATRIC: Alert. Oriented to person, place (time not asked),
   context. Mood, affect appropriate. Jocular and more dissappointed about
   not finishing race that myocardial ischemia. Very pleasant and
   cooperative. CN II grossly intact, EOM WNLs, PERL, speech normal - no
   errors, dysphonia, aphasia.
   PULSES:
   Right: Carotid 2+ DP 2+ PT 2+
   Left: Carotid 2+ DP 2+ PT 2+
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   260 K/uL
   11.1 g/dL
   95 mg/dL
   1.0 mg/dL
   28 mEq/L
   4.6 mEq/L
   13 mg/dL
   104 mEq/L
   141 mEq/L
   32.6 %
   6.5 K/uL
        [image002.jpg]
                             [**2107-4-25**]  07:42 PM
                             [**2107-4-26**]  04:47 AM
                             [**2107-4-26**]  04:27 PM
                             [**2107-4-27**]  06:07 AM
   WBC
   10.6
   6.9
   6.5
   Hct
   31.7
   32.4
   32.6
   Plt
   [**Telephone/Fax (3) 12748**]
   Cr
   1.1
   1.0
   1.0
   TropT
   0.44
   0.64
   0.37
   Glucose
   100
   95
   95
   Other labs: PT / PTT / INR:12.1/25.9/1.0, CK / CKMB /
   Troponin-T:1326/29/0.37, ALT / AST:386/264, Alk Phos / T Bili:63/0.6,
   Lactic Acid:2.6 mmol/L, LDH:346 IU/L, Ca++:9.5 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.6 mg/dL
   Assessment and Plan
   This 64-year-old man with a history of coronary artery disease likely
   had exercise induced ischemia that resulted in VF and collapse.
   Coronary artery catheterization revealed a long segment of LAD
   stenosis. A drug eluting stent was placed.
   Plan
   # Coronary Artery Disease
   Patient likely without ACS, but more likely angina with ischemic
   arhythmia (VF) and collapse.  Echo showed mild regional left
   ventricular hypokinesis c/w mid LAD disease and impaired left
   ventricular relaxation. EF 40-45%.  Enzymes trending down
   - ASA 325 QD, Plavix 75 QD, atorvastatin 80 QD
   - continue metoprolol 12.5 mg PO BID
   # VF - Rhythm strips obtained from EMS showed v fibrillation.
   Indication for prophylactic ICD is ventricular fibrillation caused byb
   irreversible process.  If VF was from ischemia caused by stenosed LAD,
   then the stent should have reversed this process.  However, if v fib
   was provoked by an underlying abnormality that we do not know about,
   then the pt might still be at risk for future events.
   - Telemetry
   - BB as above
   - cardiac MRI to r/o fibrosis, other areas that could trigger vfib
   - NPO for MRI
   # Hypercholesterolemia
   Previous noted to be 194, per the patient, but was not taking statin.
   LDL 98 and t cholesterol 182.
   - continue atorvastatin 80 mg
   # Renal Failure
   Resolved
 now normal at 1.0 and likely appropriate for age, muscle
   mass. Reduced from 1.5 yesterday
 likely pre-renal from marathon.
   # Leukocytosis
   Likely stress, resolved.
   # Mental Status
   Some short-term memory difficulty as manifest by repetition of
   questions, worse yesterday than today and away from baseline per
   family. This is improving.
   - Follow and ask family how he seems later today.
   FEN:
   - No IVFs for now
   - Electrolytes for now, K > 4.0, Mg > 2.0
   - Regular cardiac, heart healthy, diet when not NPO
   ACCESS: PIV's (sheath pulled)
   PROPHYLAXIS:
   -DVT ppx with heparin SC
   -Pain management with Tylenol and oxycodone
   -Bowel regimen with colace and senna
   CODE: Full Code
   COMM: [**Name (NI) **] and family
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2107-4-25**] 04:03 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-04-28 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Syncope, VF arrest
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2107-4-27**] 12:24 PM
   cardaic MRI at two PM
   - called out to [**Hospital Ward Name 383**] 3
   - Echo from PCP ([**9-15**]) with LVEF 60%, no WMA. Nuclear ETT with 10.5
   mins on [**Doctor First Name 3275**] without perfusion defect. LVEF estimate on ETT same day
   was 34%.
   - lisinopril 5 mg started
   - metoprolol increased to TID
   - cardiac MR obtained, prelim read is some endocardial enhancement in
   the LAD territory consistent with ischemic insult
   - given one dose Ambien for insomnia
   Allergies:
   Penicillins
   Unspecified [**Doctor First Name **]
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2107-4-27**] 11:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-4-28**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**09**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.4
   HR: 65 (55 - 78) bpm
   BP: 108/68(78) {93/53(63) - 127/78(89)} mmHg
   RR: 13 (13 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
                  Total In:
                                                                  1,420 mL
                                                                    180 mL
   PO:
                                                                  1,420 mL
                                                                    180 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,300 mL
                                                                    900 mL
   Urine:
                                                                  2,300 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -880 mL
                                                                   -720 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   Physical examination was essentially unchanged. Exam notable for groin
   without bruit, signs of pseudoaneurysm or hematoma.
   GENERAL: In NAD. Tanned slim man.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP visible while lying flat, s/p cath.
   CARDIAC: RR, normal S1, S2. No m/r/g. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. CTAB
   ABDOMEN: Soft, NTND. No HSM or tenderness. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   NEUROPSYCHIATRIC: Very pleasant and cooperative. Disappointed that had
   heart attack, stating
it is starting to sink in.
  Denies confusion or
   memory problems.
   PULSES:
   [**Name2 (NI) **]: Carotid 2+ DP 2+ PT 2+
   Left: Carotid 2+ DP 2+ PT 2+
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   253 K/uL
   11.1 g/dL
   127 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.2 mEq/L
   13 mg/dL
   104 mEq/L
   140 mEq/L
   32.5 %
   6.3 K/uL
        [image002.jpg]
                             [**2107-4-25**]  07:42 PM
                             [**2107-4-26**]  04:47 AM
                             [**2107-4-26**]  04:27 PM
                             [**2107-4-27**]  06:07 AM
                             [**2107-4-28**]  05:58 AM
   WBC
   10.6
   6.9
   6.5
   6.3
   Hct
   31.7
   32.4
   32.6
   32.5
   Plt
   [**Telephone/Fax (3) 12768**]53
   Cr
   1.1
   1.0
   1.0
   0.9
   0.9
   TropT
   0.44
   0.64
   0.37
   Glucose
   100
   95
   95
   102
   127
   Other labs: PT / PTT / INR:12.1/25.9/1.0, CK / CKMB /
   Troponin-T:1326/29/0.37, ALT / AST:386/264, Alk Phos / T Bili:63/0.6,
   Lactic Acid:2.6 mmol/L, LDH:346 IU/L, Ca++:9.4 mg/dL, Mg++:1.9 mg/dL,
   PO4:4.0 mg/dL
   Assessment and Plan
   This 64-year-old man with a history of coronary artery disease likely
   had exercise induced ischemia that resulted in VF and collapse.
   Coronary artery catheterization revealed a long segment of LAD
   stenosis. A drug eluting stent was placed.
   Plan
   # Coronary Artery Disease
   Patient likely without ACS, but more likely angina with ischemic
   arhythmia (VF) and collapse.  Echo showed mild regional left
   ventricular hypokinesis c/w mid LAD disease and impaired left
   ventricular relaxation. EF 40-45%.  Enzymes trending down.  Previous
   records showed LVEF 60% on echo and no perfusion defects on nuclear
   ETT, indicating interval insult to the LAD, which most likely was from
   an ischemic event during the marathon.
   - ASA 325 QD, Plavix 75 QD, atorvastatin 80 QD
   - change to metoprolol succinate 50 mg Q day
   - continue lisinopril 5 mg given depressed EF
   # VF - Rhythm strips obtained from EMS showed v fibrillation.  Cardiac
   MRI obtained to look for other abnormalities/fibrosis that may have
   contained a focus that contributed to the vfib.  Prelim read showed
   endocardial enhancement in the LAD territory consistent with ischemic
   insult.
   - no ICD indicated
   # coping: pt visited by social worker yesterday.
   - SW plans to continue to provide support
   # Hypercholesterolemia
   Previous noted to be 194, per the patient, but was not taking statin.
   Labs show presently his LDL is 98 and t cholesterol is 182.  Goal LDL
   is < 70.
   - continue atorvastatin 80 mg
   # Renal Failure
   Resolved
likely pre-renal from marathon.
   # Leukocytosis
   Likely stress, resolved.
   # Mental Status
   Some short-term memory difficulty initially, which seems to have
   improved.
   - Follow and ask family how he seems later today.
   FEN:
   - No IVFs for now
   - Electrolytes for now, K > 4.0, Mg > 2.0
   - Regular cardiac, heart healthy, diet
   ACCESS: PIV
   PROPHYLAXIS:
   -DVT ppx with heparin SC
   -Pain management with Tylenol and oxycodone
   -Bowel regimen with colace and senna
   - Insomina: ambien PRN
   CODE: Full Code
   COMM: [**Name (NI) **] and family
   DISPO: discharge to home